Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS

___ 10:14AM BLOOD WBC-4.7 RBC-5.19 Hgb-13.8 Hct-44.4 MCV-86 
MCH-26.6 MCHC-31.1* RDW-14.2 RDWSD-44.8 Plt ___
___ 10:14AM BLOOD Neuts-45.6 ___ Monos-11.7 Eos-2.5 
Baso-0.8 Im ___ AbsNeut-2.15 AbsLymp-1.85 AbsMono-0.55 
AbsEos-0.12 AbsBaso-0.04
___ 10:14AM BLOOD Plt ___
___ 10:22AM BLOOD ___ PTT-29.8 ___
___ 10:14AM BLOOD Glucose-103* UreaN-11 Creat-0.8 Na-141 
K-4.6 Cl-105 HCO3-26 AnGap-10
___ 10:14AM BLOOD cTropnT-<0.01

PERTIENENT LABS

___ 10:14AM BLOOD cTropnT-<0.01
___ 02:05PM BLOOD cTropnT-<0.01
___ 08:05PM BLOOD cTropnT-<0.01
___ 07:46AM BLOOD calTIBC-290 Ferritn-100 TRF-223
___ 07:46AM BLOOD %HbA1c-5.9 eAG-123
___ 07:46AM BLOOD Triglyc-151* HDL-46 CHOL/HD-3.7 
LDLcalc-96
___ 07:46AM BLOOD TSH-5.2*

DISCHARGE LABS

___ 07:46AM BLOOD WBC-3.8* RBC-5.17 Hgb-13.7 Hct-43.7 
MCV-85 MCH-26.5 MCHC-31.4* RDW-14.4 RDWSD-43.9 Plt ___
___ 07:46AM BLOOD Plt ___
___ 07:46AM BLOOD Glucose-104* UreaN-14 Creat-0.8 Na-143 
K-4.9 Cl-103 HCO3-27 AnGap-13
___ 07:46AM BLOOD ALT-12 AST-15 CK(CPK)-54 AlkPhos-107* 
TotBili-0.5
___ 07:46AM BLOOD Albumin-4.0 Calcium-9.2 Phos-3.7 Mg-2.3 
Iron-94 Cholest-172

IMAGING

CHEST XRAY: ___
FINDINGS: No focal consolidation. No large pleural effusion or 
pneumothorax. The cardiomediastinal silhouette is within normal 
limits. 
IMPRESSION: No acute cardiopulmonary process. 

TRANSTHORACIC ECHOCARDIOGRAM: ___
IMPRESSION: Suboptimal image quality. Borderline pulmonary 
artery systolic hypertension. Normal left ventricular wall 
thickness and biventricular cavity sizes and regional/global 
biventricular systolic function. Quantitative biplane left 
ventricular ejection fraction is 73% (normal
54-73%).
 
Brief Hospital Course:
SUMMARY STATEMENT 
___ year old woman with a history of previous coronary vasospasm, 
GERD and prediabetes presented with c/o atypical chest pain and 
dyspnea on exertion. Initial workup, including EKG and troponin, 
was not concerning for coronary ischemia. A stress echo from 
___ was notable for a medium area of moderate stress-induced 
ischemia in the LAD distribution with normal LV function, 
however cardiac catheterization at ___ from ___ revealed 
normal coronary arteries. The patient was admitted for 
monitoring and treatment for suspected coronary vasospasm vs. 
non-cardiac chest pain.

ACUTE ISSUES: 
=============
# History of coronary vasospasm
The patient felt that recent sub-sternal chest pain was similar 
in sensation to previous episode of coronary vasospasm in ___. 
The patient's cardiac risk factors included history of coronary 
vasospasm, pre-diabetes and obesity. Noted history of abnormal 
stress test in ___, however reassured by normal cath in ___. 
EKG and troponin remained normal throughout admission and the 
patient's pain improved. It was thought there may have been 
contribution of non-cardiac chest pain, particularly GI as the 
patient has a known history of GERD gastritis with prior 
treatment of H.pylori. TTE revealed: Suboptimal image quality. 
Borderline pulmonary artery systolic hypertension. LVEF 73%. 
Amlodipine 2.5 mg was started for vasospasm, with monitoring of 
blood pressure tolerance. The patient tolerated the medication 
with continued improvement in chest pain and was considered 
stable for discharge home.
- TSH: 5.2, mildly elevated

# Dyspnea on Exertion
Sub-acute worsening DOE was thought to be associated with 
vasospasm. The patient had no occupational exposure and had 
never smoked. She did note a nocturnal cough, which could have 
been related to cough variant asthma or GERD. The patient was 
clinically euvolemic on exam and her O2 saturation remained 
normal throughout the admission and she reported that her 
dyspnea improved prior to discharge. 

# Hypertension
BP was noted to be elevated to 150/90 systolic in the ED. 
Improved to 120/74 upon transfer to the floor and remained in 
the 100s-120s systolic throughout admission. The patient noted 
that her prior blood pressures tended to be lower. Started on 
amlodipine 2.5mg daily.

CHRONIC ISSUES:
===============
# GERD
Reports she was previously treated for H.pylori. Was unsure of 
date of last EGD. Continued home omeprazole 40 mg daily.

# Pre-diabetes
Documented of history of pre-diabetes, not on medication. HbA1c 
measured this admission was: 5.9%

TRANSITIONAL ISSUES:
[ ] Discharge creatinine: 0.8

[ ] Discharge weight: 204.14 lb (92.6 kg)

[ ] Discharge blood pressures: 100s-120s/50s-60s

[ ] Discharge heart rate: 50s-60s

[ ] Consider further uptitration of amlodipine as patient 
tolerates

[ ] ___ consider the need for a statin for primary prevention of 
CAD for this patient. Discharge lipid panel: Chol 172, Trig 151, 
HDL 46, LDL 96

[ ] Continue outpatient diet, exercise, and weight loss 
counseling in the setting of pre-diabetes with A1C 5.9%

[ ] TTE with borderline pulmonary artery systolic hypertension. 
LVEF 73%

[ ] TSH with mild elevation to 5.2, consider repeating TSH and 
measuring free T4

[ ] Consider additional work-up for GERD if symptoms persist 
despite PPI treatment. Instructed to continue omeprazole 40 mg 
daily (start date: ___. Can consider EGD.

[ ] ___ consider outpatient PFTs to evaluate obstructive 
pulmonary process such as asthma if dyspnea and nocturnal cough 
persist.

#CODE: Full Code
#Contact: ___, ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Omeprazole 40 mg PO DAILY GERD 
3. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  amLODIPine 2.5 mg PO DAILY 
RX *amlodipine 2.5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Multivitamins 1 TAB PO DAILY  
4.  Omeprazole 40 mg PO DAILY GERD  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
Non-ischemic coronary vasospasm 

Secondary
Hypertension
Gastric esophageal reflux syndrome
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at ___ 
___. 

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were having chest pain and shortness of breath 

WHAT WAS DONE WHILE I WAS IN THE HOSPITAL?
- The function of your heart was monitored 
- Studies were completed which showed that the function of your 
heart was normal 
- You were given a medication to treat the pain in your chest
- Your home medications were continued
- Your pain improved and we felt it was safe for you to be 
discharged home

WHAT SHOULD I DO WHEN I GET HOME FROM THE HOSPITAL?
- Be sure to take all of your new and previous medications as 
prescribed
- Please follow-up at all of the appointments listed below
- If you have fevers, chills, chest pain, palpitations, problems 
breathing, dizziness or generally feel unwell, please call your 
doctor or to go the emergency room

Sincerely,
Your ___ Treatment Team
 
Followup Instructions:
___